US07893060B2
4-(5-Chloro-7-morpholin-4-ylthiazolo[4,5-d]pyrimidin-2-ylmethyl)-2,2-dimethylpiperazine-1-carboxylic acid tert-butyl ester
Prepared according to the method used in the preparation of 5-(5-chloro-7-morpholin-4-ylthiazolo[4, 5-d]-pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester using 2,2-dimethylpiperazine-1-carboxylic acid tert-butyl ester in place of hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester. The title compound was obtained as a yellow solid (100 mg, 38%).

reactant | 5-(5-chloro-7-morpholin-4-ylthiazolo[4, 5-d]-pyrimidin-2-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)CC=1SC2=C(N=C(N=C2N2CCOCC2)Cl)N1 | C21H29ClN6O3S
reactant | 2,2-dimethylpiperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CNCC1)(C)C | C11H22N2O2
product | 4-(5-Chloro-7-morpholin-4-ylthiazolo[4,5-d]pyrimidin-2-ylmethyl)-2,2-dimethylpiperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CN(CC1)CC=1SC2=C(N=C(N=C2N2CCOCC2)Cl)N1)(C)C | C21H31ClN6O3S
